US08580794B2
5-bromo-6-((4-fluorotetrahydro-2H-pyran-4-yl)methoxy)pyridine-3-sulfonamide
The title compound was prepared by substituting (4-fluorotetrahydro-2H-pyran-4-yl)methanol for (tetrahydro-2H-pyran-4-yl)methanol and 5-bromo-6-chloropyridine-3-sulfonamide for 4-fluoro-3-nitrobenzenesulfonamide in EXAMPLE 24A.

reactant | (tetrahydro-2H-pyran-4-yl)methanol | O1CCC(CC1)CO | C6H12O2
reactant | 5-bromo-6-chloropyridine-3-sulfonamide | BrC=1C=C(C=NC1Cl)S(=O)(=O)N | C5H4BrClN2O2S
reactant | 4-fluoro-3-nitrobenzenesulfonamide | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
product | 5-bromo-6-((4-fluorotetrahydro-2H-pyran-4-yl)methoxy)pyridine-3-sulfonamide | BrC=1C=C(C=NC1OCC1(CCOCC1)F)S(=O)(=O)N | C11H14BrFN2O4S
